US09428500B2
4-benzyl-1-bromo-2-(trifluoromethyl)benzene
To a solution of (4-bromo-3-(trifluoromethyl)phenyl)(phenyl)methanol (168 mg, 0.507 mmol) in 0.34 mL of anhydrous DCM (C=1.5M), were successively added dropwise trifluoroacetic acid (195 μL, 5 eq) and triethylsilane (243 μL, 3 eq). After 1 h45 of stirring at r.t., the reaction mixture was hydrolyzed with a saturated NH4Cl solution (5 mL). The layers were diluted with 20 mL of DCM and 20 mL of water and then separated. The aqueous layer was extracted with DCM (3×10 mL) The combined organic phase was washed with a saturated NaHCO3 solution (20 mL), brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by silica gel flash chromatography (cyclohexane) to afford the desired product in 84% yield (135 mg) as uncoloured oil. 1H NMR (300 MHz, CDCl3) δ 7.62 (d, J=8.2 Hz, 1H), 7.54 (d, J=2.0 Hz, 1H), 7.34 (tt, J=7.9, 1.8 Hz, 2H), 7.26 (t, J=7.3 Hz, 1H), 7.22-7.15 (m, 3H), 4.00 (s, 2H); 13C NMR (75 MHz, CDCl3) δ 141.0 (C), 139.5 (C), 135.1 (CH), 133.6 (CH), 130.2 (q, J=31.3 Hz, C), 129.0 (CH), 128.9 (CH), 128.4 (q, J=5.4 Hz, CH), 126.8 (CH), 123.1 (q, J=273.4 Hz, C), 117.5 (q, J=1.9 Hz, C), 41.3 (CH2).

reactant | (4-bromo-3-(trifluoromethyl)phenyl)(phenyl)methanol | 0.507 mmol, 168 mg | BrC1=C(C=C(C=C1)C(O)C1=CC=CC=C1)C(F)(F)F | C14H10BrF3O
reactant | trifluoroacetic acid | 195 μL, 5 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 243 μL, 3 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DCM | 1.5M, 0.34 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 4-benzyl-1-bromo-2-(trifluoromethyl)benzene | 84% yield | C(C1=CC=CC=C1)C1=CC(=C(C=C1)Br)C(F)(F)F | C14H10BrF3
